Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
Endovascular repair of L CIA aneurysm using a Gore excluder 
device

 
History of Present Illness:
Mr. ___ is a ___ yo homeless male who presents with a 5 day
history of mid to low back pain. Patient is a poor historian,
however, he states that he had sudden onset of back pain 5 days
ago while at rest. He denies associated leg pain or weakness. He
presented to our ED where an MRI was performed and initially 
read
as normal. He was discharged from the ED, however re-read of the
MRI suggested possible phlegmon or abscess at the ___
that was incompletely imaged. Patient was brought back to the ED
for further evaluation. Patient states the pain has been stable.
He denies recent infections, fevers, chills, and malaise. He has
been ambulating with his cane without difficulty. He denies 
night
sweats and recent weight loss. He denies sick contacts, however
he visits multiple shelters and may be exposed without 
knowledge.

ROS:
(+) per HPI
(-) Denies pain, fevers chills, night sweats, unexplained weight
loss, fatigue/malaise/lethargy, changes in appetite, trouble 
with
sleep, pruritis, jaundice, rashes, bleeding, easy bruising,
headache, dizziness, vertigo, syncope, weakness, paresthesias,
nausea, vomiting, hematemesis, bloating, cramping, melena, 
BRBPR,
dysphagia, chest pain, shortness of breath, cough, edema, 
urinary
frequency, urgency

 
Past Medical History:
Past Medical History:
Hypertension

Past Surgical History:
Laparoscopic resection of gastric tumor
 
Social History:
___
Family History:
No known history of aneurysmal disease
 
Physical Exam:
ADMISSION PE:
Vitals: 97.8 86 168/104 18 100% RA 
GEN: A&O, NAD, flat affect
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, tender in bilateral lower quadrants L>R
with voluntary guarding. Well healed lap incisions.
Ext: No ___ edema, ___ warm and well perfused, large scar noted
over the lower anterior left leg

PULSE EXAM:
RLE: Palpable femoral, DP, and ___
LLE: Palpable femoral, DP, and ___

DISCHARGE PE:
VS: T 98.2 HR 68 BP 137/87 RR 20 99% RA 
Gen: NAD
Neuro: A&Ox3
CV: RRR
Pulm: breathing comfortably without increased respiratory effort
Abd: soft, mild lower abdominal tenderness, ND
Ext: WWP 
Pulses: (P = palpable, D = Doppler, N = None)
    Fem    DP    ___
R    P     P     P
L    P     P     P
 
Pertinent Results:
ADMISSION LABS:
___ 10:30PM BLOOD WBC-13.5* RBC-5.56 Hgb-14.3 Hct-45.1 
MCV-81* MCH-25.7* MCHC-31.7* RDW-14.4 RDWSD-41.8 Plt ___
___ 10:30PM BLOOD Neuts-80.3* Lymphs-13.1* Monos-5.6 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-10.86* AbsLymp-1.77 
AbsMono-0.76 AbsEos-0.06 AbsBaso-0.03
___ 10:30PM BLOOD ___ PTT-36.5 ___
___ 10:30PM BLOOD Glucose-144* UreaN-17 Creat-1.2 Na-135 
K-4.0 Cl-98 HCO3-28 AnGap-13

DISCHARGE LABS:
___ 05:03AM BLOOD WBC-9.3 RBC-4.49* Hgb-11.4* Hct-35.7* 
MCV-80* MCH-25.4* MCHC-31.9* RDW-15.0 RDWSD-43.2 Plt ___
___ 05:03AM BLOOD Plt ___
___ 05:03AM BLOOD Glucose-134* UreaN-11 Creat-1.3* Na-135 
K-4.0 Cl-101 HCO3-26 AnGap-12
___ 05:03AM BLOOD Calcium-8.8 Phos-2.9 Mg-2.0
___ 05:03AM BLOOD CRP-43.2*

IMAGES:
___ CXR
1.  No acute intrathoracic process. 
2.  Partially imaged left arm is notable for presence of several 
small 
metallic foreign bodies, possibly shrapnel, correlate with a 
prior history of gunshot or other injury. 

___ MRI L/T spine
1. Minimal prevertebral edema in the visualized lower cervical 
and upper 
thoracic spine with questionable contrast enhancement raising 
possibility of phlegmon.  No evidence for discitis/ 
osteomyelitis at the visualized portion of the spine.  Recommend 
a dedicated cervical spine MRI for further evaluation. 
2. Degenerative changes throughout the lumbar spine, worse at 
L3-4 resulting in moderate spinal canal and bilateral neural 
foraminal stenosis, as described above. 
3. Incompletely characterized aneurysm of the proximal left 
common iliac 
artery measuring up to 2.3 cm with surrounding abnormal high 
signal and 
stranding, which may represent focal aneurysmal dilatation with 
arteritis 
versus surrounding hemorrhage in the setting of impending 
rupture.  Recommend an urgent CTA abdomen/pelvis for further 
evaluation. 
4. A 1.5 cm left thyroid nodule.  Recommend a dedicated thyroid 
ultrasound for further evaluation. 
RECOMMENDATION(S):  MRI of the cervical spine. 
Urgent CTA of the abdomen/pelvis for further evaluation. 
Nonurgent thyroid ultrasound. 

___ CTA Abd/Pelvis
1. 1.9 cm aneurysm of the proximal left common iliac artery, 
with mural 
thrombus and surrounding inflammatory changes concerning for 
impending/contained rupture versus arteritis. 
2. The SMV appears attenuated, but is incompletely evaluated on 
this arterial exam. 

___ MR ___
1. Moderately motion degraded examination.  Within these 
confines: 
2. Severe degenerative changes throughout the cervical spine, 
worse at C4-5 with severe spinal canal and severe bilateral 
neural foraminal stenosis.  Mild high signal within the spinal 
cord at this level, consistent with chronic myelomalacia in the 
setting of no acute trauma. 
3. No evidence for discitis/osteomyelitis, prevertebral edema or 
epidural 
abscess of the cervical spine. 
4. Re-identified is STIR hyperintense signal anterior to the 
upper thoracic spine, unchanged from prior examination.  It is 
uncertain if this represents esophagus versus other process.  
Continued clinical correlation is recommended and follow-up 
examination as indicated. 

___ ECHO
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). The estimated cardiac index is normal 
(>=2.5L/min/m2). Doppler parameters are indeterminate for left 
ventricular diastolic function. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No masses or vegetations are seen on the aortic valve. 
No aortic regurgitation is seen. The mitral valve leaflets are 
structurally normal. There is no mitral valve prolapse. No mass 
or vegetation is seen on the mitral valve. No mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 

IMPRESSION: No echocardiographic evidence of endocarditis. 
Normal biventricular wall thickness, biventricular cavity size 
and regional/global systolic function. Normal diastolic 
function. No pathologic valvular findings.  

___ MRI T/L spine
 
IMPRESSION: 
    
1. Motion limited exam. 
2. No evidence for diskitis, osteomyelitis, epidural collection, 
or abnormal intrathecal contrast enhancement. 
3. Intermediate signal intensity anterior to the upper thoracic 
spine, which demonstrated high signal on fat-suppressed T2 
weighted images of the prior thoracic spine MRI, likely 
corresponds to the esophagus.  No evidence for prevertebral 
collection. 
4. Diffusely elevated signal on STIR images in the subcutaneous 
fat overlying the lumbar spine, without a fluid collection, is a 
nonspecific finding which is frequently secondary to prolonged 
supine positioning in the inpatient setting, plus/minus fluid 
third-spacing given the recent stenting procedure. 
5. Congenitally short pedicles, prominent posterior epidural 
fat, and 
degenerative changes in the lumbar spine results in moderate 
spinal canal 
stenosis at L2-L3 and severe spinal canal stenosis at L3-L4, as 
detailed 
above, with mass effect on the intrathecal and traversing nerve 
roots.  There is also moderate to severe neural foraminal 
narrowing from L2-L3 through L4-L5 with mass effect on the 
exiting nerve roots. 

___ CTA Abd/pelvis
IMPRESSION: 
    
1. Status post aortobi-iliac stent placement without evidence of 
endoleak.  Similar appearance of the left common iliac artery 
aneurysm with surrounding inflammatory changes. 
2. Relative ___ of the bilateral renal lower poles 
concerning for decreased perfusion.  The bilateral main renal 
arteries are patent with the endovascular stent in position just 
distal to the origin of the left main renal artery.  There is 
poor opacification of two left lower pole accessory renal 
arteries and a right lower pole accessory renal artery as 
detailed above.  These 3 accessory vessels originate from the 
portion of the aorta through which the stent graft is in-situ. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo male with back pain who was admitted to 
the ___ ICU on ___. The 
patient was found to have 2 cm mycotic aneurysm of the left 
common iliac artery. On ___, the patient underwent 
endovascular repair of L CIA aneurysm using a Gore excluder 
device. For details of the procedure, please see the surgeon's 
operative note. The patient tolerated the procedure well without 
complications and was brought to the post-anesthesia care unit 
in stable condition. He remained in the ICU for close monitoring 
and BP control.

On POD2, the patient was hemodynamically stable and transferred 
to the floor. He sustained an ___, likely due to IV contrast 
during diagnostic studies. Cr resolved with IVFs and over time. 
ID was consulted for recommendations on antibiotics therapy: 
vancomycin and ceftriaxone for 6 weeks (___)

Ultimately, he did well. He was able to tolerate a regular diet, 
void without issues, and pain was controlled on oral medications 
alone. He was evaluated by physical therapy with recommendation 
for continued therapy at rehab facility. He was deemed ready for 
discharge to rehab, and was given the appropriate discharge and 
follow-up instructions.  

 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Amlodipine 10 mg PO DAILY 
3. HydrALAzine 50 mg PO Q6H 
4. Metoprolol Tartrate 75 mg PO Q6H 
5. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
6. Docusate Sodium 100 mg PO BID 
7. Senna 8.6 mg PO BID:PRN constipation 
8. CeftriaXONE 2 gm IV Q 24H 
9. Vancomycin 750 mg IV Q 12H 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Mycotic aneurysm of left CIA, s/p endovascular repair

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after 
placement of a stent graft in your iliac artery to strengthen 
the part of the artery that was weakened by an aneurysm.  To 
perform this procedure, small punctures were made in the 
arteries on both sides of your groin.  You tolerated the 
procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.

Sincerely, 
Your ___ Care Team

Division of Vascular and Endovascular Surgery
Endovascular Aneurysm Repair Discharge Instructions

PLEASE NOTE: After endovascular aneurysm repair, it is very 
important to have regular appointments (every ___ months) for 
the rest of your life.  These appointments will include a CT 
(“CAT”) scan and/or ultrasound of your graft.  If you miss an 
appointment, please call to reschedule. 

WHAT TO EXPECT:
•Bruising, tenderness, and a sensation of fullness at the groin 
puncture sites (or incisions) is normal and will go away in 
one-two weeks
CARE OF THE GROIN PUNCTURE SITES:
•It is normal to have mild swelling, a small bruise, or small 
amounts of drainage at the groin puncture sites.  In two weeks, 
you may feel a small, painless, pea sized knot at the puncture 
sites.  This too is normal.  Male patients may notice swelling 
in the scrotum.  The swelling will get better over one-two 
weeks.
•Look at the area daily to see if there are any changes.  Be 
sure to report signs of infection.  These include: increasing 
redness; worsening pain; new or increasing drainage, or drainage 
that is white, yellow, or green; or fever of 101.5 or more.  (If 
you have taken aspirin, Tylenol, or other fever reducing 
medicine, wait at least ___ hours after taking it before you 
check your temperature in order to get an accurate reading.)
FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)
•If you have sudden, severe bleeding or swelling at either of 
the groin puncture sites: 
-Lie down, keep leg straight and apply (or have someone apply) 
firm pressure to area for ___ minutes with a gauze pad or 
clean cloth. 
-Once bleeding has stopped, call your surgeon to report what 
happened.   
-If bleeding does not stop, call ___ for transfer to closest 
Emergency Room. 
•You may shower 48 hours after surgery.  Let the soapy water 
run over the puncture sites, then rinse and pat dry.  Do not rub 
these sites and do not apply cream, lotion, ointment or powder. 
•Wear loose-fitting pants and clothing as this will be less 
irritating to the groin puncture sites. 

MEDICATIONS
•You will be given prescriptions for any new medication started 
during your hospital stay.
•Before you go home, your nurse ___ give you information about 
new medication and will review all the medications you should 
take at home.  Be sure to ask any questions you may have.  If 
something you normally take or may take is not on the list you 
receive from the nurse, please ask if it is okay to take it. 

PAIN MANAGEMENT
•Most patients do not have much pain following this procedure.  
 Your puncture sites may be a little sore.  This will improve 
daily. If it is getting worse, please let us know.
•You will be given instructions about taking pain medicine if 
you need it.

ACTIVITY
•You must limit activity to protect the puncture sites in your 
groin.  For ONE WEEK:
-Do not drive
-Do not swim, take a tub bath or go in a Ja___ or hot tub
-Do not lift, push, pull or carry anything heavier than five 
pounds
-Do not do any exercise or activity that causes you to hold your 
breath or bear down with your abdominal muscles.
-Do not resume sexual activity
•Discuss with your surgeon when you may return to other regular 
activities, including work.  If needed, we will give you a 
letter for your workplace. 
•It is normal to feel weak and tired.  This can last six-eight 
weeks, but should get better day by day.   You may want to have 
help around the house during this time.
___ push yourself too hard during your recovery.  Rest when 
you feel tired.  Gradually return to normal activities over the 
next month.
•We encourage you to walk regularly. Walking, especially 
outdoors in good weather is the best exercise for circulation.  
Walk short distances at first, even in the house, then do a 
little more each day.
•It is okay to climb stairs.  You may need to climb them slowly 
and pause after every few steps. 

DIET
•It is normal to have a decreased appetite.  Your appetite will 
return over time.
•Follow a well balance, heart-healthy diet, with moderate 
restriction of salt and fat. 
•Eat small, frequent meals with nutritious food options (high 
fiber, lean meats, fruits, and vegetables) to maintain your 
strength and to help with wound healing.

BOWEL AND BLADDER FUNCTION
•You should be able to pass urine without difficulty.  Call you 
doctor if you have any problems urinating, such as burning, 
pain, bleeding, going too often, or having trouble urinating or 
starting the flow of urine.   Call if you have a decrease in the 
amount of urine. 
•You may experience some constipation after surgery because of 
pain medicine and changes in activity.  Increasing fluids and 
fiber in your diet and staying active can help.  To relief 
constipation, you may talk a mild laxative.   Please take to 
your pharmacist for advice about what to take. 

SMOKING
•If you smoke, it is very important that you STOP.   Research 
shows smoking makes vascular disease worse.  This could increase 
the chance of a blockage in your new graft.  Talk to your 
primary care physician about ways to quit smoking. 

CALLING FOR HELP/DANGER SIGNS
If you need help, please call us at ___.  Remember, 
your doctor, or someone covering for your doctor, is available 
24 hours a day, seven days a week.   If you call during 
nonbusiness hours, you will reach someone who can help you reach 
the vascular surgeon on call. 
Call your surgeon right away for:
•Pain in the groin area that is not relieved with medication, 
or pain that is getting worse instead of better
•Increased redness at the groin puncture sites
•New or increased drainage from the groin puncture sites, or 
white yellow, or green drainage 
•Any new bleeding from the groin puncture sites.  For sudden, 
severe bleeding, apply pressure for ___ minutes. If the 
bleeding stops, call your doctor right away to report what 
happened.  If it does not stop, call ___
•Fever greater than 101.5 degrees
•Nausea, vomiting, abdominal cramps, diarrhea or constipation
•Any worsening pain in your abdomen
•Problems with urination
•Changes in color or sensation in your feet or legs 
CALL ___ in an EMERGENCY, such as
•Any sudden, severe pain in the back, abdomen, or chest
•A sudden change in ability to move or use your legs
•Sudden, severe bleeding or swelling at either groin site that 
does not stop after applying pressure for ___ minutes
 
Followup Instructions:
___